US07244730B2
(Step 3) N1-[5-Acetyl-3-(tert-butyl)-2-(methoxymethoxy)phenyl]acetamide
Triethylamine (60 ml, 430 mmol) was added to a solution of the 1-[3-amino-5-(tert-butyl)-4-(methoxymethoxy)phenyl]-1-ethanone (53.9 g, 215 mmol) in tetrahydrofuran (270 ml) while cooling on ice under a nitrogen atmosphere and then acetyl chloride (23 ml, 323 mmol) was added dropwise. After stirring at the same temperature for 10 minutes, the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, water was added to the residue and then extraction was performed with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid water, water, saturated aqueous sodium hydrogencarbonate and brine in that order. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to yield the title compound (56.2 g, 89.3% yield) as light brown needle-like crystals.

reactant | Triethylamine | 430 mmol, 60 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[3-amino-5-(tert-butyl)-4-(methoxymethoxy)phenyl]-1-ethanone | 215 mmol, 53.9 g | NC=1C=C(C=C(C1OCOC)C(C)(C)C)C(C)=O | C14H21NO3
reactant | acetyl chloride | 323 mmol, 23 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
product | N1-[5-Acetyl-3-(tert-butyl)-2-(methoxymethoxy)phenyl]acetamide | 56.2 g, 89.3% yield | C(C)(=O)C=1C=C(C(=C(C1)NC(C)=O)OCOC)C(C)(C)C | C16H23NO4
